US05629324
To a solution of 3,3 Diphenylpropionic acid (2.00 g, 8.85 mmol) in DMF (20 mL) was added EDC (2.04 g, 10.62 mmol), HOBT (1.44 g, 10.62 mmol) and L-proline methyl ester hydrochloride (1.76 g, 10.62 mmol) with stirring at ambient temperature. Triethylamine (2.96 mL, 21.24 mmol) was added to adjust the pH of the mixture to 8.5. After 24 hrs the DMF was removed under reduced pressure and the residue was partitioned between EtOAc (100 mL)- H2O (50 mL). The aqueous layer was washed with EtOAc (2×50 mL), organics combined, washed with 10% citric acid soln, aq satd NaHCO3 soln, brine and dried (Na2SO4). Filtration and concentration to dryness gave 3.50 g of crude product which was chromatographed (SiO2)eluting with 99 CH2Cl2 :1 MeOH to 98 CH2Cl2 :2 MeOH to give 2.48 g (83%) of N-(3,3-diphenylpropionyl)-L-proline methylester.

reactant | 3,3 Diphenylpropionic acid | 8.85 mmol, 2.00 g | C1(=CC=CC=C1)C(CC(=O)O)C1=CC=CC=C1 | C15H14O2
reactant | EDC | 10.62 mmol, 2.04 g
reactant | HOBT | 10.62 mmol, 1.44 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | L-proline methyl ester hydrochloride | 10.62 mmol, 1.76 g | Cl.COC([C@H]1NCCC1)=O
reactant | Triethylamine | 21.24 mmol, 2.96 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-(3,3-diphenylpropionyl)-L-proline methylester | 2.48 g, 83% | COC([C@H]1N(CCC1)C(CC(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C21H23NO3
